US08048899B2
Activation of 0.46 g (2.23 mmol) of 2-cyclopropylmethanesulfonyl-2-methyl-propionic acid as the corresponding acid chloride is achieved by treatment with thionyl chloride (5 mL, 69 mmol) at 70° C. for 2 h. The reaction is cooled to room temperature and excess thionyl chloride is removed under reduced pressure. The crude acid chloride is dissolved in THF (5 mL) and N,N-diisopropylethylamine (0.54 mL, 5.64 mmol) is added followed by 0.3 g (2.6 mmol) of 5-(3-methoxy-phenyl)-4H-[1,2,4]triazol-3-ylamine. After complete addition the reaction is heated to 70° C. for 36 h. The reaction is cooled to room temperature and the solvent is removed under reduced pressure. The residue is dissolved in DCM (20 mL) and washed with saturated aqueous NaHCO3 solution (20 mL). The aqueous layer is back-extracted with DCM (2×20 mL). The combined organic layers are dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure. The residue is slurried in DCM/ether (1/1, 10 mL) to yield 0.398 g of 2-cyclopropylmethanesulfonyl-N-[5-(3-methoxy-phenyl)-4H-[1,2,4]triazol-3-yl]-2-methyl-propionamide. Yield: 46%; ES-MS: m/z 379 [M+H]

reactant | 2-cyclopropylmethanesulfonyl-2-methyl-propionic acid | 2.23 mmol, 0.46 g | C1(CC1)CS(=O)(=O)C(C(=O)O)(C)C | C8H14O4S
reactant | thionyl chloride | 69 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-diisopropylethylamine | 5.64 mmol, 0.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-(3-methoxy-phenyl)-4H-[1,2,4]triazol-3-ylamine | 2.6 mmol, 0.3 g | COC=1C=C(C=CC1)C=1NC(=NN1)N | C9H10N4O
product | 2-cyclopropylmethanesulfonyl-N-[5-(3-methoxy-phenyl)-4H-[1,2,4]triazol-3-yl]-2-methyl-propionamide | 0.398 g, Yield: 46% | C1(CC1)CS(=O)(=O)C(C(=O)NC1=NN=C(N1)C1=CC(=CC=C1)OC)(C)C | C17H22N4O4S
